US04207320
10-(1-Methylethyl)-3-(4-methyl-1-piperidinyl)imidazo[1,2-a:3,4-a']diquinolin-15-ium Iodide.
A mixture of 4.7 g. of 3-fluoro-10-(1-methylethyl)imidazo[1,2-a:3,4-a']diquinolin-15-ium iodide, 20 ml. of dimethylformamide and 4.0 ml. of 4-methylpiperidine is stirred and heated at reflux for 1 hour, then evaporated at reduced pressure. The residue is stirred with 75 ml. of ethyl acetate and the resulting precipitate is collected by filtration. The solid is stirred with 150 ml. of 1% aqueous triethylamine hydroiodide, collected by filtration, washed with water and dried. This product is 10-(1-methylethyl-3-(4-methyl-1-piperidinyl)imidazo[1,2-a:3,4-a']diquinolin-15-ium iodide; m.p. 266°-269° C., after crystallization from methanol/acetonitrile.

reactant | 3-fluoro-10-(1-methylethyl)imidazo[1,2-a:3,4-a']diquinolin-15-ium iodide | [I-].FC1=CC=2C=CC3=[N+](C2C=C1)C=C1N3C=3C=CC(=CC3C=C1)C(C)C
reactant | 4-methylpiperidine | CC1CCNCC1 | C6H13N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 10-(1-Methylethyl)-3-(4-methyl-1-piperidinyl)imidazo[1,2-a:3,4-a']diquinolin-15-ium Iodide | [I-].CC(C)C1=CC=2C=CC=3N(C2C=C1)C1=[N+](C=2C=CC(=CC2C=C1)N1CCC(CC1)C)C3 | InChI=1S/C28H30N3.HI/c1-19(2)21-5-9-27-22(16-21)4-7-25-18-30-26-10-8-24(29-14-12-20(3)13-15-29)17-23(26)6-11-28(30)31(25)27;/h4-11,16-20H,12-15H2,1-3H3;1H/q+1;/p-1
